US06380288B1
Synthesis of N-(3-hydroxy-2-naphthoyl)-N′-benzoylhydrazine
A four neck flask (1 liter) equipped with a thermometer and a stirrer was charged with 60.6 g (0.3 mol) of 3-hydroxy-2-naphthohydrazide, 36.9 g (0.45 mol) of sodium acetate and 800 ml of acetic acid and heated to 30° C. Dropwise added thereto was 50.6 g (0.36 mol) of benzoyl chloride in one hour while stirring, and stirring was continued at 30° C. for one hour. After finishing the reaction, the reaction liquid was added to 1.5 liter of deionized water and crystal was filtered off. After washing sufficiently the crystal with 1 liter of deionized water and 500 ml of methanol, it was dried under reduced pressure to obtain slightly brown crystal.

reactant | 3-hydroxy-2-naphthohydrazide | 0.3 mol, 60.6 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
reactant | sodium acetate | 0.45 mol, 36.9 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
reactant | benzoyl chloride | 0.36 mol, 50.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 1.5 liter | O | H2O
product | N-(3-hydroxy-2-naphthoyl)-N′-benzoylhydrazine | OC=1C(=CC2=CC=CC=C2C1)C(=O)NNC(C1=CC=CC=C1)=O | C18H14N2O3
